*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

******************************************

*transformer
VIN tr1 0 0 sin(0 230 50 0 0)
RS tr1 tr2 10
L1 tr2 0 20
L2 A C 20
K L1 L2 0.99999
*RL 3 0 500 

* input voltage source
*vS 1 0 0 sin(0 5 100)
*vS 1 0 0 sin(0 5 400)

*Vs A C 0 sin(0 30 50)
D1 A 1 Default
D2 C 1 Default
D3 0 A Default
D4 0 C Default

* passa-baixo ordem 1 a entrada 
Ci 2 0 5u
Ri 1 2 5k

* positive limiter
Dp1 2 3 Default
Dp2 3 4 Default 
Dp3 4 5 Default
Dp4 5 6 Default
Dp5 6 7 Default
Dp6 7 8 Default
Dp7 8 9 Default
Dp8 9 10 Default
Dp9 10 11 Default
Dp10 11 12 Default
Dp11 12 13 Default
Dp12 13 14 Default
Dp13 14 15 Default
Dp14 15 16 Default
Dp15 16 17 Default
Dp16 17 18 Default
Dp17 18 19 Default
Dp18 19 20 Default
Dp19 20 21 Default
Dp20 21 0 Default
*Dp21 22 23 Default
*Dp22 23 24 Default
*Dp23 24 25 Default
*Dp24 25 26 Default
*Dp25 26 27 Default
*Dp26 27 28 Default
*Dp27 28 29 Default
*Dp28 29 0 Default



*Envelope
De 2 F Default
Re F 0 20k
Ce F 0 20u

*low-pass
Rf F Y 15k
Df1 Y y1 Default
Df2 y1 y2 Default 
Df3 y2 y3 Default
Df4 y3 y4 Default
Df5 y4 y5 Default
Df6 y5 y6 Default
Df7 y6 y7 Default
Df8 y7 y8 Default
Df9 y8 y9 Default
Df10 y9 y10 Default
Df11 y10 y11 Default
Df12 y11 y12 Default
Df13 y12 y13 Default
Df14 y13 y14 Default
Df15 y14 y15 Default
Df16 y15 y16 Default
Df17 y16 0 Default
*Df18 y17 y18 Default
*Df19 y18 y19 Default
*Df20 y19 0 Default


.model Default D
.op
.end

.control

set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

******************************************
* analise no tempo
tran 1e-5 4.9975
plot v(y)

meas tran vavg AVG v(y) from=4.7975 to=4.9975
meas tran vmax MAX v(y) from=4.7975 to=4.9975
meas tran vmin MIN v(y) from=4.7975 to=4.9975

print vavg-12
print vmax-vmin
print 1/(((vavg-12)+(vmax-vmin)+1u)*(0.1*(19+4)+15+15+10+10+4+4))

******************************************
hardcopy gr1.ps v(y)
echo gr1_FIG
hardcopy gr2.ps v(y) xlo=4.7975 xhi=4.9975
echo gr2_FIG

.endc
